US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3,4-methylenedioxyphenyl-acetamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine and 3,4-methylenedioxyphenylacetic acid.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 3,4-methylenedioxyphenylacetic acid | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3,4-methylenedioxyphenyl-acetamide | COC=1C=C(C=CC1OC)CCNC(CC1=CC2=C(C=C1)OCO2)=O | C19H21NO5
